US06268387B1
3-(2-Methoxy-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (0.8 g, 3.2 mmol), tris(2-methoxyphenyl)bismuthine (1.8 g, 3.4 mmol), copper(II) acetate (0.6 g, 3.4 mmol), and triethylamine (0.34 g, 3.4 mmol) to afford the product (0.9 g); m.p. 155-156° C. after chromatography on a column of silica gel in chloroform followed by recrystallization from ethanol.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.2 mmol, 0.8 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(2-methoxyphenyl)bismuthine | 3.4 mmol, 1.8 g | COC1=C(C=CC=C1)[Bi](C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC
reactant | triethylamine | 3.4 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 3.4 mmol, 0.6 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(2-Methoxy-phenylamino)-4-methoxy-N-phenyl-benzamide | 0.9 g | COC1=C(C=CC=C1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O3
